US04680301
A solution of 173 g of 2-tert-butyl-5-[morpholin-4-yl]-6-nitrobenzothiazole in 5000 ml of methanol is hydrogenated in presence of 40 g of Raney Nickel at room temperature. After removing the catalyst the solution is concentrated and the solid filtered to give 6-amino-2-tert-butyl-5-morpholinobenzothiazole, melting at 158°-159°.

reactant | 2-tert-butyl-5-[morpholin-4-yl]-6-nitrobenzothiazole | 173 g | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)[N+](=O)[O-])N2CCOCC2 | C15H19N3O3S
solvent | methanol | 5000 ml | CO | CH4O
catalyst | Raney Nickel | 40 g | [Ni] | Ni
product | 6-amino-2-tert-butyl-5-morpholinobenzothiazole | NC1=CC2=C(N=C(S2)C(C)(C)C)C=C1N1CCOCC1 | C15H21N3OS
